US09328099B2
Step 2: 1-[4-Azido-1-(cyanomethyl)cyclohexyl]-3-[(4-fluorophenyl)amino]-1H-pyrazole-4-carboxamide
To a solution of 1-[1-(cyanomethyl)-4-hydroxycyclohexyl]-3-[(4-fluorophenyl)amino]-1H-pyrazole-4-carboxamide (75 mg, 0.21 mmol) in DCM (2 mL) at ambient temperature was added TEA (0.059 mL, 0.42 mmol), and methanesulfonyl chloride (0.020 mL, 0.25 mmol). The mixture was stirred at ambient temperature for 10 minutes. The mixture was diluted with saturated aqueous NaHCO3, and extracted with EtOAc. The organic layer was separated, washed with brine, dried over anhydrous MgSO4 and concentrated in vacuo. The crude residue (90 mg, 0.207 mmol) was diluted in DMF (1.0 mL), NaN3 (27 mg, 0.41 mmol) was added and the mixture was heated at 90° C. for 16 hours. The mixture was cooled to ambient temperature, diluted with H2O and extracted with EtOAc. The organic layer was separated, washed with brine, dried over anhydrous MgSO4 and concentrated in vacuo. The residue was purified by MPLC on silica gel (using a gradient elution of 30-100% EtOAc/hexanes) to give the title compound as a mixture of two diasteromers (ratio 1:3), which was used without further purification.

reactant | 1-[1-(cyanomethyl)-4-hydroxycyclohexyl]-3-[(4-fluorophenyl)amino]-1H-pyrazole-4-carboxamide | 0.21 mmol, 75 mg | C(#N)CC1(CCC(CC1)O)N1N=C(C(=C1)C(=O)N)NC1=CC=C(C=C1)F | C18H20FN5O2
reactant | methanesulfonyl chloride | 0.25 mmol, 0.020 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaN3 | 0.41 mmol, 27 mg | [N-]=[N+]=[N-].[Na+]
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 1-[4-Azido-1-(cyanomethyl)cyclohexyl]-3-[(4-fluorophenyl)amino]-1H-pyrazole-4-carboxamide | N(=[N+]=[N-])C1CCC(CC1)(CC#N)N1N=C(C(=C1)C(=O)N)NC1=CC=C(C=C1)F | C18H19FN8O
